US09421177B2
N-(1-cyanocyclopropyl)oleamide (9)
General procedure F was used to 1.68 mmols of 1-amino-1-cyclopropanecarbonitrile to 2.184 mmols of oleoyl chloride. After standard purification techniques, 1.24 mmols (74%) of the title product was recovered. 1H NMR (500 MHz, CDCl3) δ 6.53 (s, 1H), 5.43-5.25 (m, 2H), 2.17 (t, J=7.6, 2H), 1.99 (dd, J=6.5, 12.5, 4H), 1.60 (d, J=7.2, 2H), 1.52 (dd, J=5.7, 8.3, 2H), 1.39-1.15 (m, 24H), 0.87 (t, J=6.9, 3H). 13C NMR (126 MHz, CDCl3) δ 174.09, 130.00, 129.66, 120.14, 97.26, 35.97, 31.88, 29.74, 29.68, 29.51, 29.30, 29.23, 29.14, 29.09, 27.20, 27.14, 25.22, 22.66, 20.39, 16.74, 14.11.

reactant | 1-amino-1-cyclopropanecarbonitrile | 1.68 mmols | NC1(CC1)C#N | C4H6N2
reactant | oleoyl chloride | 2.184 mmols | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | N-(1-cyanocyclopropyl)oleamide | 1.24 mmols, 74% | C(#N)C1(CC1)NC(CCCCCCC\C=C/CCCCCCCC)=O | C22H38N2O
